US06777418B2
To a solution of 0.362 g (1.14 mmol) of 3-(2-(2-pyrimidyl)ethynyl)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthaldehyde in 20 mL of ethanol was added 0.060 g of 10% palladium on carbon and the suspension was shaken under 40 psi hydrogen gas for 3 hours. The resulting solution was filtered and concentrated in vacuo. The product was purified by flash chromatography on silica gel (30% ethyl acetate/hexane) to afford 0.251 g (68%) of 3-(2-(2-pyrimidyl)ethyl)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthaldehyde (m.p.=78.0-84.5° C.).

reactant | 3-(2-(2-pyrimidyl)ethynyl)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthaldehyde | 1.14 mmol, 0.362 g | N1=C(N=CC=C1)C#CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C=O | C21H22N2O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.060 g | [Pd] | Pd
product | 3-(2-(2-pyrimidyl)ethyl)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthaldehyde | 0.251 g, 68% | N1=C(N=CC=C1)CCC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C=O | C21H26N2O
